* Diagnostic: is the ring oscillating inside the closed loop, and if it is,
* where does the clock stop getting through?
*
* The end-to-end run reports a recovered clock of 55 nanovolts at the output
* pin while the CTLE equalises correctly and the control voltage sits at
* 0.66 V -- a value the standalone ring runs at 620 MHz on.  Two possibilities
* and they need different fixes:
*
*   (a) the ring is not oscillating at all;
*   (b) the ring is oscillating and the differential-to-single-ended stage or
*       the output buffers are not passing it at 1.2 V.
*
* So this probes the chain at four points -- a ring node, the ring's own
* buffered output, the CDR's single-ended clock, and the pin -- and runs for
* 300 ns instead of 1500 ns, which costs about four minutes instead of thirty.
*
* Nodes with '+' in the name are unusable: ngspice parses the '+' as an
* operator and the vector silently never appears.  rclk+ is therefore reached
* through a unity-gain source rather than measured directly.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib  cap_typ

.include ../netlists/blocks.inc

.global sub!
Vsub sub! 0 0
* Pin the coarse trim.  This deck measures the fine loop on its own, and with
* vcoarse! free the coarse loop corrects whatever this deck is detuning --
* silently, and every point passes.  0.60 V is the nominal trim point at
* tt / 27 C / 1.2 V: the trim fully OFF, which is where the coarse loop
* rests at nominal (docs/RING_DUAL_LOOP.md section 7.3).
.global vcoarse!
Vcrs vcoarse! 0 1.20

.options method=gear reltol=1e-3 abstol=1e-12

.param vcm=0.70
.param amp=0.2
.param rpad=500 cpad=5p
.param ui=1.665n

VDD Vdd 0 1.2
VSS Vss 0 0
Iref Vdd ibias 40u

Vdraw draw 0 PULSE(0 1 0 10p 10p 'ui' '2*ui')
Edinp dinp 0 vol='vcm + 0.5*amp*(v(draw)-0.5)'
Edinm dinm 0 vol='vcm - 0.5*amp*(v(draw)-0.5)'

Rpadp dinp cinp 'rpad'
Cpadp cinp 0    'cpad'
Rpadm dinm cinm 'rpad'
Cpadm cinm 0    'cpad'

x1 cinp cinm ibias clkoutp clkoutm Vdd Vss ctle_cdr_rx

* No voltage-controlled sources copying internal nodes out.  The first version
* of this deck did that, and it does not work: an element's node fields are
* not hierarchical, so ngspice created five NEW top-level nodes literally named
* "x1.x2.rclk+" and so on, left them floating, and the operating point failed
* with "singular matrix: check node x1.x2.rclk+" -- pointing at a node the
* circuit does not contain.
*
* Hierarchical paths are legal in save, print and meas.  So the probes below
* are chosen to be nodes whose names contain no '+' or '-', which ngspice's
* expression parser would treat as operators:
*
*   x1.x2.x1.net1 / net2   ring stage 1 outputs, inside ring_oscillator
*   x1.x2.net3 / net5      ring_oscillator's buffered outputs, inside CDR
*   clkoutp                the pin

.ic v(x1.x2.x20.nrc)=0
.ic v(x1.x2.x1.net1)=0.9 v(x1.x2.x1.net2)=0.3
* 0.55 V, not 0.62 V.  The ring changed with the coarse loop -- 0.7 um input
* pair, 9000 ohm load -- and now reaches 641.6 MHz at vctrl = 0.60 and
* 562.1 MHz at 0.50 (vco_ct_centre.log), so the baud rate is at about 0.549 V.
* Seeding 0.62 V starts the ring 2.7 % fast, and a closed-loop run seeded
* outside the fine loop's capture range measures the seed: the first attempt
* came out at 666.6 MHz with vctrl climbing at 63 mV/us, which is the
* out-of-band signature of docs/RING_DUAL_LOOP.md section 2, not a lock.
.ic v(x1.x2.vctrl)=0.55

.control
save v(x1.x2.vctrl) v(x1.x2.x1.net1) v(x1.x2.x1.net2)
+    v(x1.x2.net3) v(x1.x2.net4)
+    v(clkoutp) v(x1.eq_p) v(x1.eq_m) v(x1.x2.x20.pre)
tran 20p 300n

let vctrl  = v(x1.x2.vctrl)
let ring_d = v(x1.x2.x1.net1) - v(x1.x2.x1.net2)
let raw_d  = v(x1.x2.net3) - v(x1.x2.net4)

* Peak-to-peak in three windows: right after the .ic kick, after the precharge
* releases, and at the end.  If the ring rings and dies, the three differ.
meas tran ring_pp1 PP ring_d FROM=5n   TO=25n
meas tran ring_pp2 PP ring_d FROM=150n TO=200n
meas tran ring_pp3 PP ring_d FROM=250n TO=300n
meas tran raw_pp1  PP raw_d  FROM=5n   TO=25n
meas tran raw_pp   PP raw_d  FROM=250n TO=300n
meas tran out_pp   PP v(clkoutp) FROM=250n TO=300n
meas tran vctrl_end AVG vctrl FROM=250n TO=300n
meas tran pre_end   AVG v(x1.x2.x20.pre) FROM=250n TO=300n
print ring_pp1 ring_pp2 ring_pp3 raw_pp1 raw_pp out_pp vctrl_end pre_end
quit
.endc
.end
